US08669254B2
{[5-(3,4-Dichloro-phenyl)-6-(2,2,2-trifluoro-ethoxy)-pyridine-3-carbonyl]-amino}-acetic acid tert-butyl ester
To a suspension of 3.66 g 5-(3,4-dichloro-phenyl)-6-(2,2,2-trifluoro-ethoxy)-nicotinic acid in 40 ml dichloromethane was added 1.469 g Ghosez's reagent ((1-chloro-2-methyl-propenyl)-dimethyl-amine)) and the mixture was stirred at ambient temperature for 30 min. To the resulting solution was added 3.224 g N,N-diisopropylethylamine and 1.44 g glycine-t-butylester and the mixture was stirred at ambient temperature for 30 min. The reaction mixture was quenched by addition of 10% aqueous citric acid. The phases were separated and the organic phase was purified by chromatography on silica gel with heptane:ethyl acetate=9:1 to 1:1 to yield 4.10 g of the title compound as white foam. MS (EI): 477.0608 (M−H).

reactant | 5-(3,4-dichloro-phenyl)-6-(2,2,2-trifluoro-ethoxy)-nicotinic acid | 3.66 g | ClC=1C=C(C=CC1Cl)C=1C(=NC=C(C(=O)O)C1)OCC(F)(F)F | C14H8Cl2F3NO3
reactant | (1-chloro-2-methyl-propenyl)-dimethyl-amine | ClC(=C(C)C)N(C)C | C6H12ClN
reactant | N,N-diisopropylethylamine | 3.224 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | glycine-t-butylester | 1.44 g | C(C)(C)(C)OC(CN)=O | C6H13NO2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | {[5-(3,4-Dichloro-phenyl)-6-(2,2,2-trifluoro-ethoxy)-pyridine-3-carbonyl]-amino}-acetic acid tert-butyl ester | 4.10 g | C(C)(C)(C)OC(CNC(=O)C=1C=NC(=C(C1)C1=CC(=C(C=C1)Cl)Cl)OCC(F)(F)F)=O | C20H19Cl2F3N2O4
